US09056834B2
Step D: (S)-3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butan-1-amine
A cooled solution (0° C. by internal thermometer) of (S,S)-2-methyl-N-(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)propane-2-sulfinamide (74.0 g, 179 mmol) in methanol (0.90 L) was treated with 2.0M hydrochloric acid in diethylether (233 ml, 466 mmol) dropwise while maintaining the reaction temperature below 15° C. Following 1 hour, the solvent was removed in vacuo and the resulting oil was treated with diethylether to precipitate the product as a fine white solid. The solid was collected via filtration, and washed with diethylether (3×100 ml). The remaining solid was dried in vacuo. The crude material was used for further transformations.

reactant | (S,S)-2-methyl-N-(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)propane-2-sulfinamide | 179 mmol, 74.0 g | CC(C)(C)[S@](=O)N[C@@H](CC(C)C)C1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F | C21H27F3N2OS
reactant | hydrochloric acid | 2.0M | Cl | ClH
reactant | diethylether | 466 mmol, 233 ml | C(C)OCC | C4H10O
solvent | methanol | 0.90 L | CO | CH4O
product | (S)-3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butan-1-amine | CC(C[C@H](N)C1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F)C | C17H19F3N2
